US06608089B2
Preparation of 7-propynyloxy-2-methyl-4′-methoxyisoflavone
A mixture of 7-hydroxy-2-methyl-4′-methoxyisoflavone (2.82 g, 0.01 mol), K2CO3 (2.8 g, 0.02 mol), Kl (0.166 g, 0.001 mol), propargyl bromide (1.78 g, 0.015 mol) and acetone (100 mL) was refluxed 10 h and hot filtered. The solvent was evaporated and the residue was crystallized by toluene. This yields 2.24 g of a product with the following characteristics: m.p. 139-140° C.; 1H NMR (CDCl3) δ: 2.29 (s, 3H), 2.6 (m, 1H), 3.85 (s, 3H), 4.75 (s, 2H), 6.93-8.17 (m, 7H).

reactant | 7-hydroxy-2-methyl-4′-methoxyisoflavone | 0.01 mol, 2.82 g | OC1=CC=C2C(C(=C(OC2=C1)C)C1=CC=C(C=C1)OC)=O | C17H14O4
reactant | K2CO3 | 0.02 mol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | propargyl bromide | 0.015 mol, 1.78 g | C(C#C)Br | C3H3Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 7-propynyloxy-2-methyl-4′-methoxyisoflavone | C(#CC)OC1=CC=C2C(C(=C(OC2=C1)C)C1=CC=C(C=C1)OC)=O | C20H16O4
